US04267184
B. 4,5-Bis(4-chlorophenyl)-3-propylpyrrole
A mixture of 5 g Raney nickel, 0.8 g (2 m moles) of 2-acetylthio-3-allyl-4,5-bis(4-chlorophenyl)pyrrole and 50 ml acetone was heated at reflux under nitrogen for two hours. The mixture was diluted with ethanol and the catalyst was removed by filtration. The filtrate was concentrated by rotary evaporation. The residue was purified by chromatography on 50 g Silic AR CC-7, eluting with hexane/toluene (90/10), to give 0.15 g of white crystals, m.p. 90°-93°.

reactant | 2-acetylthio-3-allyl-4,5-bis(4-chlorophenyl)pyrrole | 0.8 g | C(C)(=O)SC=1NC(=C(C1CC=C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C21H17Cl2NOS
reactant | acetone | 50 ml | CC(=O)C | C3H6O
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4,5-Bis(4-chlorophenyl)-3-propylpyrrole | 0.15 g | ClC1=CC=C(C=C1)C=1C(=CNC1C1=CC=C(C=C1)Cl)CCC | C19H17Cl2N
